US06642249B2
A mixture of 4-(4-methyl-3-oxo-3H-chromeno[4,3-c]pyrazol-2-yl)-benzonitrile (0.030 g, 0.10 mmol), acetic acid (0.4 ml), H2SO4 (0.4 ml) and water (0.4 ml) was heated at 100° C. in an oil bath for 19 h. After cooling water was added and the precipitation collected, washed with water and dried to yield 4-(4-methyl-3-oxo-3H-chromeno-[4,3-c]pyrazol-2-yl)-benzoic acid (0.029 g): 1H NMR (400 MHz, DMSO-d6) δ 8.21 (2H, d), 8.13 (1H, d), 8.01 (2H, d), 7.67-7.75 (2H, m), 7.54-7.58 (1H, m), 2.78 (3H, s); ESI MS m/z 321 (M+H+).

reactant | 4-(4-methyl-3-oxo-3H-chromeno[4,3-c]pyrazol-2-yl)-benzonitrile | 0.10 mmol, 0.030 g | CC=1OC=2C=CC=CC2C2=NN(C(C21)=O)C2=CC=C(C#N)C=C2 | C18H11N3O2
reactant | acetic acid | 0.4 ml | C(C)(=O)O | C2H4O2
reactant | H2SO4 | 0.4 ml | OS(=O)(=O)O | H2O4S
solvent | water | O | H2O
solvent | water | 0.4 ml | O | H2O
product | 4-(4-methyl-3-oxo-3H-chromeno-[4,3-c]pyrazol-2-yl)-benzoic acid | 0.029 g | CC=1OC=2C=CC=CC2C2=NN(C(C21)=O)C2=CC=C(C(=O)O)C=C2 | C18H12N2O4
